US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(pyridin-4-ylsulfanyl)-thiazol-2-yl]-urea (110 mg, 25%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 4-mercaptopyridine (222 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 4-mercaptopyridine | 2 mmol, 222 mg | SC1=CC=NC=C1 | C5H5NS
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(pyridin-4-ylsulfanyl)-thiazol-2-yl]-urea | 110 mg, 25% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)SC1=CC=NC=C1 | C22H22N4O2S2
